US07005432B2
5-(7-Ethoxy-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=345.4 (M+H+), was prepared from 2-(7-ethoxy-naphthalen-2-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-ylmethyl)-pyridazine.

reactant | 2-(7-ethoxy-naphthalen-2-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C(C)OC1=CC=C2C=CC(=CC2=C1)B1OC(C(O1)(C)C)(C)C | C18H23BO3
reactant | 5-chloro-3-(2-methyl-imidazol-1-ylmethyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(7-Ethoxy-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.C(C)OC1=CC=C2C=CC(=CC2=C1)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C21H20N4O.ClH/c1-3-26-21-7-6-16-4-5-17(10-18(16)12-21)19-11-20(24-23-13-19)14-25-9-8-22-15(25)2;/h4-13H,3,14H2,1-2H3;1H
